US08530667B2
A solution of 4-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-10-oxa-tricyclo[5.2.1.0*2,6*]dec-8-ene-3,5-dione (180 mg, 0.47 mmol) in methanol (5 ml) is stirred under hydrogen (3 bars) for 7 hours. The reaction solution is filtered through a Celite pad and the filtrate concentrated to give 4-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione (51 mg).

reactant | 4-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-10-oxa-tricyclo[5.2.1.0*2,6*]dec-8-ene-3,5-dione | 0.47 mmol, 180 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)CC)C1C(C2C3C=CC(C2C1=O)O3)=O | C21H17ClO3S
solvent | methanol | 5 ml | CO | CH4O
product | 4-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 51 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)CC)C1C(C2C3CCC(C2C1=O)O3)=O | C21H19ClO3S
